US09382188B2
step 2) ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-oxopentanoate
To a solution of ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-hydroxypentanoate (330 mg) and triethylamine (0.89 mL) in DMSO (5 mL) was added sulfur trioxide pyridine complex (410 mg), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added, at room temperature, 1N hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product (350 mg) of the title compound as a pale-orange oil. This compound was used for the next step without further purification.

reactant | ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-hydroxypentanoate | 330 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)CCO)CC(C)(C)C | C32H39FO5
reactant | triethylamine | 0.89 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | ethyl 3-(3-(((2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-5-oxopentanoate | 350 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)CC=O)CC(C)(C)C | C32H37FO5
